US04272507
28.3 g (0.1 mole) of 4-(2,6-dichloroanilino)-3-thiophenacetonitrile are introduced into 150 ml of concentrated sulfuric acid and stirred for one hour at room temperature. It is poured onto ice, and the precipitate which has formed is filtered off. Recrystallization from ethyl acetate yields 4-(2,6-dichloroanilino)-3-thiophenacetamide (m. 172° to 173°).

reactant | 4-(2,6-dichloroanilino)-3-thiophenacetonitrile | 0.1 mole, 28.3 g | ClC1=C(NC=2C(=CSC2)CC#N)C(=CC=C1)Cl | C12H8Cl2N2S
reactant | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
product | 4-(2,6-dichloroanilino)-3-thiophenacetamide | ClC1=C(NC=2C(=CSC2)CC(=O)N)C(=CC=C1)Cl | C12H10Cl2N2OS
